US08008303B2
3-Bromo-N-(4-morpholin-4-ylphenyl)-4-trifluoromethoxy-benzamide
A solution of 3-bromo-4-trifluoromethoxybenzoic acid (515 mg), N-(4-aminophenyl)morpholine (323 mg), EDAC (763 mg), HOBT (538 mg) and N-methylmorpholine (597 μl) in DMF (5 ml) was stirred at room temperature. After 1 h, water (10 ml) was added and the resulting suspension filtered. The residue was dried in vacuo and then purified by flash column chromatography, eluting with 2:1 petroleum ether: ethyl acetate. The title compound was isolated as an off-white solid (532 mg).

reactant | 3-bromo-4-trifluoromethoxybenzoic acid | 515 mg | BrC=1C=C(C(=O)O)C=CC1OC(F)(F)F | C8H4BrF3O3
reactant | N-(4-aminophenyl)morpholine | 323 mg | NC1=CC=C(C=C1)N1CCOCC1 | C10H14N2O
reactant | EDAC | 763 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 538 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 597 μl | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 3-Bromo-N-(4-morpholin-4-ylphenyl)-4-trifluoromethoxy-benzamide | BrC=1C=C(C(=O)NC2=CC=C(C=C2)N2CCOCC2)C=CC1OC(F)(F)F | C18H16BrF3N2O3
